US06221874B1
15.0 g (52.8 mmol) 6-amino-1,3-di-n-butyl-5-nitrosouracil, 1.5 g 10% Pd/C and 150 mL DMF were hydrogenated at 40 psi in a Parr shaker for 4 h. After completion, the reaction mixture was filtered through Celite, and evaporated to give crude 5,6-diaminouracil as a dark oil.

reactant | 6-amino-1,3-di-n-butyl-5-nitrosouracil | 52.8 mmol, 15.0 g | NC1=C(C(N(C(N1CCCC)=O)CCCC)=O)N=O | C12H20N4O3
catalyst | Pd/C | 1.5 g | [Pd] | Pd
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 5,6-diaminouracil | 96% yield | NC=1C(NC(NC1N)=O)=O | C4H6N4O2
